US04243678
8.0 g of ethyl 6-(biphenyl-2-yl)aminocaproate and 3.3 g of ethyldiisopropylamine in 50 ml of benzene are reacted with a solution of 5.3 g of 5-chloro-2-methoxybenzoyl chloride in 20 ml of benzene, analogously to Example 47a), to obtain, as reaction product, 11.1 g (90% of theory) of ethyl 6-[5-chloro-2-methoxy-N-(biphenyl-2-yl)benzamido]caproate as a viscous non-distillable oil. The saponification of this ester yields 7.0 g (67% of theory) of 6-[5-chloro-2-methoxy-N-(biphenyl-2-yl)benzamido]-caproic acid, MP 164° to 165°.

reactant | ethyl 6-(biphenyl-2-yl)aminocaproate | 8.0 g | C1(=C(C=CC=C1)NCCCCCC(=O)OCC)C1=CC=CC=C1 | C20H25NO2
reactant | ethyldiisopropylamine | 3.3 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-2-methoxybenzoyl chloride | 5.3 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | ethyl 6-[5-chloro-2-methoxy-N-(biphenyl-2-yl)benzamido]caproate | 11.1 g, 90% | ClC=1C=CC(=C(C(=O)N(C2=C(C=CC=C2)C2=CC=CC=C2)CCCCCC(=O)OCC)C1)OC | C28H30ClNO4
